US08193199B2
2-Chloro-8-fluoroquinoline (182 mg, 1.0 mmol) was dissolved in THF (2 mL) and cooled to −78° C. To this solution was added Lithium diisopropylamide (1M solution in THF, 1.1 mL, 1.1 mmol, 1.1 eq). The reaction was allowed to stir at −78° C. for 20 min, after which time acetaldehyde (113 μl, 2.0 mmol, 2 eq.) was added via syringe. After 30 minutes, the reaction was quenched with water and diluted with ethyl acetate. The layers were separated and washed with brine. The crude reaction mixture was purified by column chromatography (8:2 hexanes:ethyl acetate) to afford 1-(2-chloro-8-fluoroquinolin-3-yl)ethanol. 1H NMR (400 MHz, CDCl3) δ ppm 8.43 (br s, 1H), 7.64 (td, J=7.8, 5.1 Hz, 1H), 7.41 (ddd, J=10.2, 7.4, 1.2 Hz, 1H), 5.39 (qdd, J=6.3, 3.9, 0.8 Hz, 1H), 2.22 (d, J=3.9 Hz, 1H), 1.62 (d, J=6.3 Hz, 3H).

reactant | 2-Chloro-8-fluoroquinoline | 1.0 mmol, 182 mg | ClC1=NC2=C(C=CC=C2C=C1)F | C9H5ClFN
reactant | Lithium diisopropylamide | 1.1 mmol, 1M, 1.1 mL, 1.1 eq | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetaldehyde | 2.0 mmol, 113 μl, 2 eq. | C(C)=O | C2H4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-chloro-8-fluoroquinolin-3-yl)ethanol | ClC1=NC2=C(C=CC=C2C=C1C(C)O)F | C11H9ClFNO
